US07612212B2
To a dry flask were added (S)-2-amino-(2-chloro-4-iodo-phenyl)-3-phenyl-propionamide (980 mg, 2.44 mmol), bis-dichlorotriphenylphosphine palladium (19.8 mg, 0.0489 mmol), and copper iodide (9.5 mg, 0.049 mmol). To this mixture was added trimethylsilylacetylene (269.7 mg, 2.69 mmol) in dry triethylamine (1.46 mL). Dry dichloromethane (1 mL) was added after 30 minutes. After 3 hours additional bis-dichlorotriphenylphosphine palladium (40 mg, 0.099 mmol) and copper iodide (20 mg, 0.099 mmol) were added. After 1 hour the reaction mixture was diluted with a 1:1 v/v mixture of diethyl ether/dichloromethane and passed through a bed of silica gel and the silica gel then eluted with a 2:3 v/v mixture of diethyl ether/dichloromethane. The eluant was concentrated in vacuo and the crude residue was purified by chromatography over silica gel gradient eluted with 5 to 30% v/v diethyl ether in hexanes. The pooled fractions containing product were concentrated to give (S)-2-amino-N-(2-chloro-4-trimethylsilanylethynyl-phenyl)-3-phenyl-propionamide as a white solid (820 mg 90% yield).

reactant | (S)-2-amino-(2-chloro-4-iodo-phenyl)-3-phenyl-propionamide | 2.44 mmol, 980 mg | N[C@@](C(=O)N)(CC1=CC=CC=C1)C1=C(C=C(C=C1)I)Cl | C15H14ClIN2O
reactant | trimethylsilylacetylene | 2.69 mmol, 269.7 mg | C[Si](C)(C)C#C | C5H10Si
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | triethylamine | 1.46 mL | C(C)N(CC)CC | C6H15N
solvent | diethyl ether dichloromethane | C(C)OCC.ClCCl
catalyst | copper iodide | 0.049 mmol, 9.5 mg | [Cu](I)I
catalyst | copper iodide | 0.099 mmol, 20 mg | [Cu](I)I
product | (S)-2-amino-N-(2-chloro-4-trimethylsilanylethynyl-phenyl)-3-phenyl-propionamide | 90% yield | N[C@H](C(=O)NC1=C(C=C(C=C1)C#C[Si](C)(C)C)Cl)CC1=CC=CC=C1 | C20H23ClN2OSi
